US07906645B2
tert-Butyl (2S)-2-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)methyl]-morpholine-4-carboxylate
Dess-Martin periodinane (8.60 g) was added to tert-butyl (2R)-2-(hydroxymethyl)morpholine-4-carboxylate (4.00 g) in dry DCM at 0° C. The reaction was warmed to RT and stirred for a further 2 h. Aqueous sodium thiosulfate (10% w/v, 50 ml) was added and the DCM layer was removed then dried (MgSO4), filtered and evaporated to form the crude aldehyde. The residue was then dissolved in dry dichloromethane (100 ml) followed by addition of N-(3,4-dichlorophenyl)piperazine-1-carboxamide hydrochloride (5.72 g), N,N-diisopropylethylamine (3.17 mL) and NaBH(OAc)3 (9.76 g) and the reaction was stirred under argon for 18 h. 1M NaOH (50 mL) was added followed by vigorous stirring and the dichloromethane layer was extracted. The organic layer was dried (MgSO4), filtered and evaporated. Purification by chromatography (EtOAc neat) afforded the title compound (2.10 g) as a white foam LCMS M/z(+) 471, 473 (M+H+).

reactant | Dess-Martin periodinane | 8.60 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | tert-butyl (2R)-2-(hydroxymethyl)morpholine-4-carboxylate | 4.00 g | OC[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C10H19NO4
reactant | sodium thiosulfate | 50 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | N-(3,4-dichlorophenyl)piperazine-1-carboxamide hydrochloride | 5.72 g | Cl.ClC=1C=C(C=CC1Cl)NC(=O)N1CCNCC1
reactant | N,N-diisopropylethylamine | 3.17 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaBH(OAc)3 | 9.76 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 1M, 50 mL | [OH-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | tert-Butyl (2S)-2-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)methyl]-morpholine-4-carboxylate | 2.10 g | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C21H30Cl2N4O4
